US08426604B2
3-({5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-4-oxo-4,5-dihydro-thiazol-2-yl}-methyl-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester was prepared from 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-ethylsulfanyl-thiazol-4-one and 3-Methylamino-pyrrolidine-1-carboxylic acid tert-butyl ester following General Procedure C.

reactant | 5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-2-ethylsulfanyl-thiazol-4-one | ClC1=CC(=C(CN2N=CC3=CC(=CC=C23)C=C2C(N=C(S2)SCC)=O)C=C1)C(F)(F)F | C21H15ClF3N3OS2
reactant | 3-Methylamino-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)NC | C10H20N2O2
product | 3-({5-[1-(4-Chloro-2-trifluoromethyl-benzyl)-1H-indazol-5-ylmethylene]-4-oxo-4,5-dihydro-thiazol-2-yl}-methyl-amino)-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)N(C)C=1SC(C(N1)=O)=CC=1C=C2C=NN(C2=CC1)CC1=C(C=C(C=C1)Cl)C(F)(F)F | C29H29ClF3N5O3S
